US06313094B1
[Process 1] Boc-Thr(Me)-OH
In a THF solution containing 0.8 g of Boc-Thr-OH, 100 mg of sodium hydride (60% in oil) was added under ice cooling and the resultant mixture was stirred for 30 min at room temperature. Further, 2.8 ml of methyl iodide was added and the obtained reaction mixture was stirred overnight at room temperature. The reaction mixture was evaporated under reduced pressure and the resultant residue was redissolved in ethyl acetate, washed with 5% sodium hydrogensulfite aqueous solution, water and saturated sodium chloride aqueous solution, successively, and dried over anhydrous sodium sulfate. The dried solution was evaporated under reduced pressure, dissolved in methanol, mixed with DCHA and reevaporated. Ether-hexane was added to the residue to give 0.55 g of the title compound as its DCHA salt.

reactant | Boc-Thr-OH | 0.8 g | N([C@@H]([C@H](O)C)C(=O)O)C(=O)OC(C)(C)C | C9H17NO5
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | methyl iodide | 2.8 ml | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | Boc-Thr(Me)-OH | 0.55 g | N([C@@H]([C@H](OC)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO5
